US04324855
17.5 g of phenacyl bromide was dissolved in 16 ml of acetone combined with a hot solution prepared by dissolving 10.73 g of nicotinamide in 24 ml of alcohol, and heated for 5 minutes on a steam bath. After cooling, crystals thus formed were collected by filtration and washed with alcohol and benzene to obtain 15.5 g of slightly yellow crystals (3-carbamoyl-1-phenacylpyridinium bromide).

reactant | phenacyl bromide | 17.5 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | nicotinamide | 10.73 g | C(C1=CN=CC=C1)(=O)N | C6H6N2O
solvent | acetone | 16 ml | CC(=O)C | C3H6O
product | 3-carbamoyl-1-phenacylpyridinium bromide | [Br-].C(N)(=O)C=1C=[N+](C=CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C14H12N2O2.BrH/c15-14(18)12-7-4-8-16(9-12)10-13(17)11-5-2-1-3-6-11;/h1-9H,10H2,(H-,15,18);1H
